US04394070
Preparation of the intermediate (+)-N-citronellyl-α-naphthylamine was prepared according to the procedure disclosed by Borsch et al. in J.A.C.S., 93, 2897 (1971).
2.0 g α-naphthylamine (14 mmol) and 0.01 gm α-naphthylamine-HCl were added to 25 ml absolute methanol along with 2.15 gm citronellal (14 mmol) and stirred for five minutes, after which the solution turned hazy. Then 0.53 gm (8.4 mmol) sodium cyanoborohydride was added and a brief exotherm occurred. The mixture was stirred overnight at room temperature. The bottom organic layer was separated from the top aqueous layer. An IR spectra of the organic layer (a brown oil) showed no carbonyl group and very little absorption in the OH/NH region (330-360 nm). Upon vacuum distillation of the organic layer the component having a bp of 175°-180° C. was collected. The desired product was recovered as a pale yellow oil in 21% yield. The structure of the amine product was confirmed by NMR.

reactant | α-naphthylamine | 14 mmol, 2.0 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | α-naphthylamine-HCl | 0.01 gm | Cl.C1(=CC=CC2=CC=CC=C12)N
reactant | citronellal | 14 mmol, 2.15 gm | CC(C)=CCCC(C)CC=O | C10H18O
reactant | sodium cyanoborohydride | 8.4 mmol, 0.53 gm | C(#N)[BH3-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | (+)-N-citronellyl-α-naphthylamine | 21% yield | C(CC(C)CCC=C(C)C)NC1=CC=CC2=CC=CC=C12 | C20H27N
